US05232928
Ethyl N-Carbobenzyloxy-L-Valyl-1,2,3,4-tetrahydro-3-isoquinoline carboxylate
CBZ-L-Valine (12.6 g, 0.05 mol) and triethylamine (5.06 g 0.05 mol) were dissolved in THF (100 mL) and then cooled to 0°-5° C, with an ice water bath. Ethyl chloroformate (5.44 g, 0.05 mol) in THF (35 mL) was added dropwise at 0°-5° C. Following the addition the mixture was stirred for one hour in the cold. Ethyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride (14.5 g, 0.06 mol) and triethylamine (6.1 g, 0.06 mol) in CH2Cl2 (60 mL) and THF (30 mL) were added at 0° C. The reaction mixture as allowed to sit at room temperature overnight. Evaporation of the solvent yielded a viscous semisolid which was treated with ethyl acetate followed by 1N HCl and the layers were separated. The organic extract was washed with 1N aqueous HCl followed by 5% aqueous Na2CO3 and saturated aqueous NaCl-solution. After drying over MgSO4 , filtration and evaporation under reduced pressure afforded an oil (12.5 g) which was purified over silica gel using hexane: ethyl acetate (8:2) as eluent. Collected 2.9 g of the desired product as a viscous oil.

reactant | CBZ-L-Valine | 0.05 mol, 12.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triethylamine | 0.05 mol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 0.05 mol, 5.44 g | ClC(=O)OCC | C3H5ClO2
reactant | Ethyl 1,2,3,4-tetrahydroisoquinoline-3-carboxylate hydrochloride | 0.06 mol, 14.5 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)OCC
reactant | triethylamine | 0.06 mol, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-Carbobenzyloxy-L-Valyl-1,2,3,4-tetrahydro-3-isoquinoline carboxylate | 12.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)C1NC(CC2=CC=CC=C12)C(=O)OCC | C25H30N2O5
